US07799918B2
Preparation of N-(2-chloro-pyridin-3-yl)-2,3-difluoro-benzamide
3.31 g 3-amino-2-chloropyridine (25.8 mmol) and 20 mL pyridine were mixed in an ice bath. 5.0 g 2,3-difluoro-benzoyl chloride (28.4 mmol) was then added. After return to room temperature and reaction for 4 hr, the reaction was quenched by water. After extraction three times by ethyl acetate, an ethyl acetate layer was collected and washed by 1M HCl solution. After drying, filtration, concentration, and purification by silicon-gel column, 6.4 g solid was obtained, with a yield of 93%.

reactant | 3-amino-2-chloropyridine | 25.8 mmol, 3.31 g | NC=1C(=NC=CC1)Cl | C5H5ClN2
reactant | 2,3-difluoro-benzoyl chloride | 28.4 mmol, 5.0 g | FC1=C(C(=O)Cl)C=CC=C1F | C7H3ClF2O
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | N-(2-chloro-pyridin-3-yl)-2,3-difluoro-benzamide | 6.4 g, yield of 93% | ClC1=NC=CC=C1NC(C1=C(C(=CC=C1)F)F)=O | C12H7ClF2N2O
